US03966748
Preparation of 1-(3-p-Fluorobenzoylpropyl)-4-(4-methyl-2-thiazolyl)pyridinium chloride
A 1.0 g. portion of γ-chloro-p-fluorobutyrophenone and 0.9 g. of 4-(4-methyl-2-thiazolyl)pyridine are heated in an oil bath at 95°-100°C. overnight. Ether is added and the mixture is filtered. The solid is recrystallized from acetonitrile. This solid is recrystallized from a mixture of alcohol and ether, m.p. 226°-228°C.

reactant | γ-chloro-p-fluorobutyrophenone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | 4-(4-methyl-2-thiazolyl)pyridine | CC=1N=C(SC1)C1=CC=NC=C1 | C9H8N2S
solvent | Ether | CCOCC | C4H10O
product | 1-(3-p-Fluorobenzoylpropyl)-4-(4-methyl-2-thiazolyl)pyridinium chloride | [Cl-].FC1=CC=C(C(=O)CCC[N+]2=CC=C(C=C2)C=2SC=C(N2)C)C=C1 | InChI=1S/C19H18FN2OS.ClH/c1-14-13-24-19(21-14)16-8-11-22(12-9-16)10-2-3-18(23)15-4-6-17(20)7-5-15;/h4-9,11-13H,2-3,10H2,1H3;1H/q+1;/p-1
